US04353921
A. 2-Methyl-1-[1-[(2,6-dimethylphenyl)carbamoyl]ethyl]-2-imidazoline
In a manner similar to Example IA react 15.88 gm. (0.075 M) of 2-chloro-N-(2,6-dimethylphenyl)propionamide with 31.55 gm. (0.375 M) of lysidine in 150 ml. of nitromethane to obtain the title compound.

reactant | 2-chloro-N-(2,6-dimethylphenyl)propionamide | 0.075 M | ClC(C(=O)NC1=C(C=CC=C1C)C)C | C11H14ClNO
reactant | lysidine | 0.375 M | CC1=NCCN1 | C4H8N2
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 2-Methyl-1-[1-[(2,6-dimethylphenyl)carbamoyl]ethyl]-2-imidazoline | CC=1N(CCN1)C(C)C(NC1=C(C=CC=C1C)C)=O | C15H21N3O
